US07977477B2
A mixture of 4-(5-Chloro-2-methoxy-benzoylamino)-1H-pyrazole-3-carboxylic acid (0.22 g, 0.745 mmol), 4-Methoxy-5-(4-methyl-piperidin-1-ylmethoxy)-benzene-1,2-diamine (0.2 g, 0.745 mmol), EDC (0.173 g, 0.89 mmol) and HOBt (0.122 g, 0.89 mmol) in DMF (20 ml) was stirred at 80° C. for 1 hour then at ambient temperature for 16 hours and then reduced in vacuo. The residue was partitioned between EtOAc and saturated bicarbonate, the organic portion was washed with brine and dried (MgSO4), filtered and evaporated. The amide intermediate (150 mg), (LC/MS (acidic method): Rt 2.13, [M+H]+ 543) was dissolved in AcOH (5 ml) then heated at reflux for 4 hours. The reaction mixture was allowed to cool, reduced in vacuo, residue purified by preparative TLC to yield 5-Chloro-2-methoxy-N-{3-[6-methoxy-5-(1-methyl-piperidin-4-ylmethoxy)-1H-benzimidazol-2-yl-]1H-pyrazol-4-yl}-benzamide (2 mg). (LC/MS (acidic method): Rt 2.25, [M+H]+ 525)

reactant | 4-(5-Chloro-2-methoxy-benzoylamino)-1H-pyrazole-3-carboxylic acid | 0.745 mmol, 0.22 g | ClC=1C=CC(=C(C(=O)NC=2C(=NNC2)C(=O)O)C1)OC | C12H10ClN3O4
reactant | 4-Methoxy-5-(4-methyl-piperidin-1-ylmethoxy)-benzene-1,2-diamine | 0.745 mmol, 0.2 g | COC=1C=C(C(=CC1OCN1CCC(CC1)C)N)N | C14H23N3O2
reactant | EDC | 0.89 mmol, 0.173 g
reactant | HOBt | 0.89 mmol, 0.122 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 5-Chloro-2-methoxy-N-{3-[6-methoxy-5-(1-methyl-piperidin-4-ylmethoxy)-1H-benzimidazol-2-yl-]1H-pyrazol-4-yl}-benzamide | 2 mg | ClC=1C=CC(=C(C(=O)NC=2C(=NNC2)C2=NC3=C(N2)C=C(C(=C3)OCC3CCN(CC3)C)OC)C1)OC | C26H29ClN6O4
